US07943617B2
2-(4-methoxybenzylamino)ethanol
A 1 L round bottom flask is charged with 2-aminoethanol (29 g, 213 mmol), 4-methoxybenzaldehyde (39 g, 639 mmol), methanol (250 mL) and acetic acid (75 mL) under a nitrogen atmosphere. The contents were cooled to 0° C. and sodium triacetoxyborohydride (50 g, 234 mmol) was added over a 20 minute period. The reaction mixture was stirred at room temperature for 18 hours, concentrated under reduced pressure and partitioned between water (500 mL) and ethyl acetate (500 mL). The ethyl acetate layer was washed with 3N HCl (400 mL). The HCl layer is separated, cooled to 0° C., made basic using 6N NaOH and extracted with dichloromethane (2×100 mL). The dichloromethane layer was dried over sodium sulfate and concentrated under reduced pressure to yield the title compound a as an oil (20 g). 1H-NMR of the oil was consistent with the desired structure.

reactant | 2-aminoethanol | 213 mmol, 29 g | NCCO | C2H7NO
reactant | 4-methoxybenzaldehyde | 639 mmol, 39 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | methanol | 250 mL | CO | CH4O
reactant | sodium triacetoxyborohydride | 234 mmol, 50 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
product | 2-(4-methoxybenzylamino)ethanol | COC1=CC=C(CNCCO)C=C1 | C10H15NO2
